US08426428B2
Step 1: Synthesis of 2-((2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)pyridine
2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (1 equivalent), 2-(chloromethyl)pyridine (1.1 equivalent), K2CO3 (3 equivalents), and KI (0.1 equivalents) are refluxed in acetone overnight. The mixture is cooled, filtered, the filtrate is concentrated and purified by column chromatography.

reactant | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1 equivalent | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C12H16BFO3
reactant | 2-(chloromethyl)pyridine | 1.1 equivalent | ClCC1=NC=CC=C1 | C6H6ClN
reactant | K2CO3 | 3 equivalents | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-((2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)pyridine | FC1=C(OCC2=NC=CC=C2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C18H21BFNO3
